US09145354B2
Step 11—To a stirred solution of 3-{[(1R)-1-[3-(6-aminopyridine-3-carbonyl)-4-chloro-2-fluorophenyl]propyl]-amino}butanamide (237 g, 603 mmol) in EtOH (1900 mL) at 78° C. was added (+)-O-acetyl-L-mandelic acid (117 g, 603 mmol). The mixture was kept at 78° C. for 10 minutes then allowed to cool to room temperature (with stirring) providing a precipitate. After stirring overnight the solid was collected by filtration, washed with EtOH (1.25 Vol), then Et2O (1.7 Vol) and dried at 40° C. under vacuum providing (3S)-3-{[(1R)-1-[3-(6-aminopyridine-3-carbonyl)-4-chloro-2-fluorophenyl]propyl]-amino}butanamide (+)-O-acetyl-L-mandelic acid salt (206 g) diastereomer ratio of 97.5:2.5 in favour of the desired diastereomer. 1H NMR (400 MHz, DMSO-d6): 8.15 (1H, d), 7.78 (1H, dd), 7.64 (1H, t), 7.52-7.37 (6H, m), 7.31 (3H, d), 6.79 (1H, s), 6.54 (1H, d), 5.83-5.73 (1H, m), 4.01 (1H, t), 2.87-2.69 (1H, m), 2.62-2.52 (1H, m), 2.22-2.01 (2H, m), 2.12 (3H, s), 1.81-1.66 (1H, m), 1.66-1.50 (1H, m), 0.95 (3H, d), 0.78 (3H, t).

reactant | 3-{[(1R)-1-[3-(6-aminopyridine-3-carbonyl)-4-chloro-2-fluorophenyl]propyl]-amino}butanamide | 603 mmol, 237 g | NC1=CC=C(C=N1)C(=O)C=1C(=C(C=CC1Cl)[C@@H](CC)NC(CC(=O)N)C)F | C19H22ClFN4O2
reactant | (+)-O-acetyl-L-mandelic acid | 603 mmol, 117 g | C(C)(=O)OC([C@@H](O)C1=CC=CC=C1)=O | C10H10O4
solvent | EtOH | 1900 mL | CCO | C2H6O
product | (3S)-3-{[(1R)-1-[3-(6-aminopyridine-3-carbonyl)-4-chloro-2-fluorophenyl]propyl]-amino}butanamide (+)-O-acetyl-L-mandelic acid salt | 206 g | C(C)(=O)OC([C@@H](O)C1=CC=CC=C1)=O.NC1=CC=C(C=N1)C(=O)C=1C(=C(C=CC1Cl)[C@@H](CC)N[C@H](CC(=O)N)C)F | InChI=1S/C19H22ClFN4O2.C10H10O4/c1-3-14(25-10(2)8-16(23)26)12-5-6-13(20)17(18(12)21)19(27)11-4-7-15(22)24-9-11;1-7(11)14-10(13)9(12)8-5-3-2-4-6-8/h4-7,9-10,14,25H,3,8H2,1-2H3,(H2,22,24)(H2,23,26);2-6,9,12H,1H3/t10-,14+;9-/m00/s1
